US08648066B2
2-amino-N-[(3R)-1-methylpyrrolidin-3-yl]-5-[4-(2,6,6-trimethyl-5,6,7,8-tetrahydroquinazolin-4-yl)-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl]pyridine-3-sulfonamide.
Synthesized according to the method of example 5 using (S)-2-amino-5-bromo-N-(1-methylpyrrolidin-3-yl)pyridine-3-sulfonamide (reagent preparation 25) and [4-(2,6,6-trimethyl-5,6,7,8-tetrahydroquinazolin-4-yl)-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl]boronic acid (reagent preparation 23) in step 1. 1H NMR (400 MHz, d6-DMSO): 8.52 (d, 1H), 8.07 (d, 1H), 7.61 (d, 1H), 7.45 (dd, 1H), 7.02 (d, 1H), 6.68 (br s, 2H), 4.57 (s, 2H), 4.25 (br t, 2H), 3.82 (br m, 2H), 3.63 (br m, 1H), 2.65 (t, 2H), 2.43 (m, 4H), 2.33 (s, 3H), 2.22 (br m, 2H), 2.13 (s, 3H), 1.84 (s, 5H), 1.57 (t, 2H), 1.45 (m, 1H), 0.83 (s, 6H); MS (EI) for C30H39N7O3S: 578 (MH+).

reactant | (S)-2-amino-5-bromo-N-(1-methylpyrrolidin-3-yl)pyridine-3-sulfonamide | NC1=NC=C(C=C1S(=O)(=O)N[C@@H]1CN(CC1)C)Br | C10H15BrN4O2S
reactant | [4-(2,6,6-trimethyl-5,6,7,8-tetrahydroquinazolin-4-yl)-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl]boronic acid | CC1=NC=2CCC(CC2C(=N1)N1CCOC2=C(C1)C=C(C=C2)B(O)O)(C)C | C20H26BN3O3
product | 2-amino-N-[(3R)-1-methylpyrrolidin-3-yl]-5-[4-(2,6,6-trimethyl-5,6,7,8-tetrahydroquinazolin-4-yl)-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl]pyridine-3-sulfonamide | NC1=NC=C(C=C1S(=O)(=O)N[C@H]1CN(CC1)C)C=1C=CC2=C(CN(CCO2)C2=NC(=NC=3CCC(CC23)(C)C)C)C1 | C30H39N7O3S
